US07728176B2
The procedures in Example A-6 or B-23 were repeated except that 0.084 g (0.16 mmol) of tri-tert-butylphosphonium tetraphenylborate of Example A-6 or 0.093 g (0.16 mmol) of tri-tert-butylphosphonium tetra-para-tolylborate of Example B-23 was replaced with 0.032 g (0.16 mmol) of tri-tert-butylphosphine. Tri-tert-butylphosphine generated white smoke while being handled in air. Little 4-methylbiphenyl formed.

reactant | tri-tert-butylphosphonium tetraphenylborate | 0.16 mmol, 0.084 g | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
reactant | tri-tert-butylphosphonium tetra-para-tolylborate | 0.16 mmol, 0.093 g | C1(=CC=C(C=C1)[B-](C1=CC=C(C=C1)C)(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
reactant | tri-tert-butylphosphine | 0.16 mmol, 0.032 g | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
product | 4-methylbiphenyl | CC1=CC=C(C=C1)C1=CC=CC=C1 | C13H12
